US06437142B1
5.1.1 Preparation of (Z)-10,10,10-trifluoro-9-hydroxy-5,5-dimethyl-9-trifluoromethyl-dec-7-enal
To a solution of 3.39 g of (Z)-10,10,10-trifluoro-5,5-dimethyl-9-trifluormethyl-dec-7-ene-1,9-diol in 15 ml of dichloromethane was added a solution of 90 mg of KBr and 336 mg of NaHCO3 in 14 ml of water and 8.5 mg of 2,2,6,6-tetramethylpiperidin-1-oxyl, radical, and the mixture was treated at 0° under vigorous stirring with 8.00 g of aqueous NaOCl (10.8%) over 1 h. The organic layer was washed with sat. aqueous NaCl, dried over MgSO4 and evaporated to give 2.92 g of the pure (t.l.c.) title compound as a pale yellow oil. IR (neat): 1718s (C═O).

reactant | (Z)-10,10,10-trifluoro-5,5-dimethyl-9-trifluormethyl-dec-7-ene-1,9-diol | 3.39 g | FC(C(\C=C/CC(CCCCO)(C)C)(O)C(F)(F)F)(F)F | C13H20F6O2
reactant | KBr | 90 mg | [K+].[Br-]
reactant | NaHCO3 | 336 mg | C(=O)(O)[O-].[Na+]
reactant | NaOCl | 8.00 g | [O-]Cl.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 14 ml | O | H2O
solvent | 2,2,6,6-tetramethylpiperidin-1-oxyl | 8.5 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (Z)-10,10,10-trifluoro-9-hydroxy-5,5-dimethyl-9-trifluoromethyl-dec-7-enal | FC(C(\C=C/CC(CCCC=O)(C)C)(C(F)(F)F)O)(F)F | C13H18F6O2
